US04612376
To a solution of 6-(3,4-dimethoxyphenyl)-2,4(1H,3H)-pyrimidinedione (8.0 g) in N,N-dimethylformamide (50 ml) and added sodium hydride (50% in oil, 3.40 g) and the mixture was heated at 60° C. for 30 minutes with stirring. To this mixture which was cooled to ambient temperature was added methyl iodide (40 ml) and the resulting mixture was stirred at the same temperature for 90 minutes. To the reaction mixture was added water and evaporated under reduced pressure. The residue was diluted with water (300 ml) and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with a mixture of chloroform and methanol. The fractions containing the object compound were combined and concentrated under reduced pressure to give 6-(3,4-dimethoxyphenyl)-1,3-dimethyl-2,4(1H,3H)-pyrimidinedione (1.94 g).

reactant | 6-(3,4-dimethoxyphenyl)-2,4(1H,3H)-pyrimidinedione | 8.0 g | COC=1C=C(C=CC1OC)C1=CC(NC(N1)=O)=O | C12H12N2O4
reactant | sodium hydride | 3.40 g | [H-].[Na+]
reactant | methyl iodide | 40 ml | CI | CH3I
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-(3,4-dimethoxyphenyl)-1,3-dimethyl-2,4(1H,3H)-pyrimidinedione | 1.94 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1C)=O)C)=O | C14H16N2O4
